US09255107B2
Preparation of N-[3-((1H-pyrrolo[2,3-b]pyrazin-5-yl)ethynyl)-4-methylphenyl]-N′-[4-((4-methylpiperazin-1-yl)methyl)-3-trifluoromethylphenyl]urea
The title compound was prepared using 5-bromo-1H-pyrrolo[2,3-b]pyrazine and N-(3-ethynyl-4-methylphenyl)-N′-[4-((4-methylpiperazin-1-yl)methyl)-3-trifluoromethylphenyl]urea as raw materials, according to the method described in Step 4 of Example 1.

reactant | 5-bromo-1H-pyrrolo[2,3-b]pyrazine | BrN1C=CC2=C1N=CCN2 | C6H6BrN3
reactant | N-(3-ethynyl-4-methylphenyl)-N′-[4-((4-methylpiperazin-1-yl)methyl)-3-trifluoromethylphenyl]urea | C(#C)C=1C=C(C=CC1C)NC(=O)NC1=CC(=C(C=C1)CN1CCN(CC1)C)C(F)(F)F | C23H25F3N4O
product | N-[3-((1H-pyrrolo[2,3-b]pyrazin-5-yl)ethynyl)-4-methylphenyl]-N′-[4-((4-methylpiperazin-1-yl)methyl)-3-trifluoromethylphenyl]urea | N1C2=C(N=CC1)N(C=C2)C#CC=2C=C(C=CC2C)NC(=O)NC2=CC(=C(C=C2)CN2CCN(CC2)C)C(F)(F)F | C29H30F3N7O
